US08304434B2
Step 4: tert-butyl 3-(1-{[3-(trifluoromethyl)phenyl]thio}ethyl)azetidine-1-carboxylate
To 100 ml round bottom flask was added tert-butyl 3-(1-hydroxyethyl)azetidine-1-carboxylate (2.06 g, 10.2 mmol), triethylamine (4.2 ml, 30.7 mmol) and 40 ml dichloromethane. Methanesulfonyl chloride (0.955 ml, 12.3 mmol) was added at 0° C. The reaction mixture was allowed to warm up to room temperature and stirred for 1 hour. It was then diluted with 100 ml ether, washed with 2×50 ml saturated sodium carbonate solution. The organics were dried over sodium sulfate, filtered and concentrated. The residue was dissolved in 30 ml dimethylformamide. Potassium carbonate (3.75 g, 26.8 mmol) and 3-(trifluoromethyl)benzenethiol (1.91 g, 10.7 mmol) were added. The resulting reaction mixture was heated at 75° C. overnight. It was diluted with 120 ml ether, washed sequentially with 150 ml water, and 75 ml saturated sodium carbonate. The organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with hexane to 1:9 ethyl acetate/hexane to give 2.65 g desired product as colorless oil.

reactant | tert-butyl 3-(1-hydroxyethyl)azetidine-1-carboxylate | 10.2 mmol, 2.06 g | OC(C)C1CN(C1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triethylamine | 30.7 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 12.3 mmol, 0.955 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Potassium carbonate | 26.8 mmol, 3.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(trifluoromethyl)benzenethiol | 10.7 mmol, 1.91 g | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | tert-butyl 3-(1-{[3-(trifluoromethyl)phenyl]thio}ethyl)azetidine-1-carboxylate | 2.65 g | FC(C=1C=C(C=CC1)SC(C)C1CN(C1)C(=O)OC(C)(C)C)(F)F | C17H22F3NO2S
